US08557836B2
3-(cyclopropylmethyl)-3-azaspiro[5,5]undecane (1).
To a solution of 3-azaspiro[5,5]undecane (0.34 g, 2.2 mmol), cyclopropanecarbaldehyde (0.14 g, 2 mmol) and NaBH(OAc)3 (0.64 g, 3 mmol) in dichloroethane (10 mL) were added AcOH (0.12 mL, 2 mmol), the resulting suspension was stirred overnight, quenched with NaHCO3 and extracted with CH2Cl2 twice, the combined organic layer was washed with brine, and dried with MgSO4. The solution was filtered, concentrated in vacuo and purified by flash chromatography. The compound was converted to the hydrochloride by passing HCl gas into the ether solution of 3-(cyclopropylmethyl)-3-azoniaspiro[5,5]undecane at 0° C., followed by decanting the ether supernatant, the final white solid (0.39 g, 80% yield) was dried in vacuo. 1H NMR (360 MHz, CDCl3) δ 2.45 (t, J=5.66 Hz, 4H), 2.23 (d, J=6.51 Hz 2H), 1.49 (t, J=5.66 Hz, 4H), 1.48-1.40 (m, 6H), 1.38-1.30 (m, 4H), 0.92-0.82 (m, 1H), 0.52-0.47 (m, 2H), 0.11-0.17 (m, 2H); 13C NMR (90 MHz, CDCl3) δ 64.55, 49.67, 36.47, 35.46, 31.00, 27.12, 21.73, 8.74, 4.19; ESI-MS: Calculated for C14H25N (M+H)+ 208.4, Found: 208.4.

reactant | 3-azaspiro[5,5]undecane | 2.2 mmol, 0.34 g | C1CNCCC12CCCCC2 | C10H19N
reactant | cyclopropanecarbaldehyde | 2 mmol, 0.14 g | C1(CC1)C=O | C4H6O
reactant | NaBH(OAc)3 | 3 mmol, 0.64 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 2 mmol, 0.12 mL | CC(=O)O | C2H4O2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 3-(cyclopropylmethyl)-3-azaspiro[5,5]undecane | 0.39 g, 80% yield | C1(CC1)CN1CCC2(CC1)CCCCC2 | C14H25N
